US05719143
(2,6-Dimethoxy-4-methylphenyl)(2-methylaminophenyl) Ketone (Compound 1)
To a solution of 30 g of 3,5-dimethoxytoluene in 400 ml of tetrahydrofuran are added, at a temperature in the region of -20° C., 129 ml of 1.6M butyllithium in hexane. Once the introduction is complete, the reaction mixture is brought to a temperature of 0° C. and is then stirred for 1 hour. It is cooled to -20° C. and 36.67 g of N-methylisatoic anhydride are added portionwise. The mixture is allowed to return to room temperature and is stirred over 2 hours, followed by addition of 500 ml of water and extraction with ethyl acetate. The organic phase is washed with water, dried over sodium sulphate and evaporated under vacuum. The residue is purified by chromatography on silica gel, eluent: toluene/ethyl acetate 9/1. The fractions of pure product are concentrated under vacuum and the residue is crystallized from isopropyl ether, filtered and dried. Beige crystals melting at 215° C. are obtained; Yield=78%.

reactant | 3,5-dimethoxytoluene | 30 g | COC=1C=C(C=C(C1)OC)C | C9H12O2
reactant | butyllithium | 1.6M, 129 ml | C(CCC)[Li]
reactant | N-methylisatoic anhydride | 36.67 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2,6-Dimethoxy-4-methylphenyl)(2-methylaminophenyl) Ketone | Yield=78% | COC1=C(C(=CC(=C1)C)OC)C(=O)C1=C(C=CC=C1)NC | C17H19NO3
